US05541210
To a solution of di-2-pyridyl thionocarbonate (0.393 mg) and 4-dimethylaminopyridine (0.01 g) in methylene chloride (100 mL) is added dropwise over 30 minutes a solution of 5-amino-1-tert-butoxycarbonyl-7-fluoro-4-methylbenzimidazole (0.409 g) in methylene chloride (70 mL). The mixture is stirred at room temperature for 3 hours then rotary evaporated. The residue is purified by flash chromatography on silica gel, eluting with 10% ethyl acetate/hexane to afford 1-tert-butoxycarbonyl-7-fluoro-4-methyl-5-benzimidazolylisothiocyanate as a white solid.

reactant | di-2-pyridyl thionocarbonate | 0.393 mg | C1=CC=NC(=C1)OC(=S)OC2=CC=CC=N2 | C11H8N2O2S
reactant | 5-amino-1-tert-butoxycarbonyl-7-fluoro-4-methylbenzimidazole | 0.409 g | NC1=C(C2=C(N(C=N2)C(=O)OC(C)(C)C)C(=C1)F)C | C13H16FN3O2
catalyst | 4-dimethylaminopyridine | 0.01 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 70 mL | C(Cl)Cl | CH2Cl2
product | 1-tert-butoxycarbonyl-7-fluoro-4-methyl-5-benzimidazolylisothiocyanate | C(C)(C)(C)OC(=O)N1C=NC2=C1C(=CC(=C2C)N=C=S)F | C14H14FN3O2S
